US06756373B1
5-(2-Butoxy-5-iodo-3-pyridinyl)-3-ethyl-2-(2-methoxyethyl)-2,6-dihydro-7H-pyrazolo[4,3-d]pyrimidin-7-one
Potassium hexamethyldisilazide (46 mg, 0.23 mmol) was added to N-[3-(aminocarbonyl)-5-ethyl-1-(2-methoxyethyl)-1H-pyrazol-4-yl]-2-butoxy-5-iodonicotinamide (Preparation 13) (100 mg, 0.19 mmol) in degassed n-butanol (2 mL) and the solution stirred under a nitrogen atmosphere. The reaction was heated at reflux for 9 h and then cooled. The butanol was removed in vacuo and the residue partitioned between dichloromethane and 1N hydrochloric acid. The organic phase was separated and washed with brine, dried (MgSO4) and concentrated to give a white solid. Trituration with ethyl acetate gave the title compound (40 mg, 42%) as a white solid.

reactant | Potassium hexamethyldisilazide | 0.23 mmol, 46 mg | C[Si]([N-][Si](C)(C)C)(C)C.[K+]
reactant | N-[3-(aminocarbonyl)-5-ethyl-1-(2-methoxyethyl)-1H-pyrazol-4-yl]-2-butoxy-5-iodonicotinamide | 0.19 mmol, 100 mg | NC(=O)C1=NN(C(=C1NC(C1=C(N=CC(=C1)I)OCCCC)=O)CC)CCOC | C19H26IN5O4
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | n-butanol | 2 mL | C(CCC)O | C4H10O
product | 5-(2-Butoxy-5-iodo-3-pyridinyl)-3-ethyl-2-(2-methoxyethyl)-2,6-dihydro-7H-pyrazolo[4,3-d]pyrimidin-7-one | 40 mg, 42% | C(CCC)OC1=NC=C(C=C1C=1NC(C=2C(N1)=C(N(N2)CCOC)CC)=O)I | C19H24IN5O3
